US04847303
To a solution of 2-tert-butyl-6-methylphenol (1.2 g, 7.3 mmol) in methylene chloride (28 ml, 1.1 equiv.), stirred under argon at -78° C., is added 5-hexynoyl chloride (1.0 g) followed by tin tetrachloride (0.93 mL, 1.1 equiv.). After stirring 30 minutes at -78° C., the reaction is warmed to -50° C. and stirred 5 minutes more. The mixture is then quenched with 1N HCl/ether. The product is extracted from 1N HCl with 3 portions of ether, and the ether layers are combined and washed with water. The resulting ether layer is dried (MgSO4), filtered, and concentrated in vacuo to give 2.14 g crude product. The product is flash chromatographed on silica gel using 10% EtOAc in hexane to give 0.97 g 2-t-butyl-4-(5-hexynoyl)-6-methylphenol. Crystallization from hexane gives crystals, mp 63°-64° C.

reactant | 2-tert-butyl-6-methylphenol | 7.3 mmol, 1.2 g | C(C)(C)(C)C1=C(C(=CC=C1)C)O | C11H16O
reactant | methylene chloride | 28 ml, 1.1 equiv. | C(Cl)Cl | CH2Cl2
reactant | 5-hexynoyl chloride | 1.0 g | C(CCCC#C)(=O)Cl | C6H7ClO
reactant | tin tetrachloride | 0.93 mL, 1.1 equiv. | [Sn](Cl)(Cl)(Cl)Cl
product | 2-t-butyl-4-(5-hexynoyl)-6-methylphenol | 0.97 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(CCCC#C)=O)C)O | C17H22O2
